2125-03-22 11:44:00 Physician Attending Progress Note
Chief Complaint: GI Bleed
   Respiratory Failure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   PSV trial completed
   DDAVP given in the setting of renal failure and thrombocyopenia with
   GIB
   Sedation transitioned to Versed/Fentanyl
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2125-3-21**] 04:40 PM
 ARTERIAL LINE - START [**2125-3-21**] 05:30 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   severe rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2125-3-22**] 01:30 AM
   Erythromycin - [**2125-3-22**] 02:30 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2125-3-22**] 11:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 74 (65 - 98) bpm
   BP: 105/50(71) {73/31(46) - 114/54(72)} mmHg
   RR: 12 (10 - 21) insp/min
   SpO2: 97%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  3,370 mL
                                                                    486 mL
   PO:
             TF:
   IVF:
                                                                  2,385 mL
                                                                    486 mL
   Blood products:
                                                                    985 mL
   Total out:
                                                                    495 mL
                                                                    145 mL
   Urine:
                                                                    395 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,875 mL
                                                                    341 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 378 (343 - 477) mL
   PS : 10 cmH2O
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 76
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.28/47/111/23/-4
   Ve: 5.1 L/min
   PaO2 / FiO2: 277
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   42 K/uL
   109 mg/dL
   2.7 mg/dL
   23 mEq/L
   4.5 mEq/L
   92 mg/dL
   111 mEq/L
   142 mEq/L
   30.0 %
   6.3 K/uL
        [image002.jpg]
                             [**2125-3-21**]  01:41 AM
                             [**2125-3-21**]  09:16 AM
                             [**2125-3-21**]  11:42 AM
                             [**2125-3-21**]  01:30 PM
                             [**2125-3-21**]  03:32 PM
                             [**2125-3-21**]  03:50 PM
                             [**2125-3-21**]  08:00 PM
                             [**2125-3-22**]  12:11 AM
                             [**2125-3-22**]  04:05 AM
                             [**2125-3-22**]  04:17 AM
   WBC
   6.3
   Hct
   32.2
   32.6
   32.1
   32.2
   31.0
   31.1
   30.0
   Plt
   60
   57
   46
   43
   42
   Cr
   2.4
   2.4
   2.6
   2.7
   TCO2
   26
   25
   23
   Glucose
   65
   67
   83
   109
   Other labs: PT / PTT / INR:16.6/35.0/1.5, CK / CKMB /
   Troponin-T:71//0.07, ALT / AST:18/26, Alk Phos / T Bili:114/2.1,
   Amylase / Lipase:/14, Differential-Neuts:89.0 %, Band:5.0 %, Lymph:1.0
   %, Mono:4.0 %, Eos:1.0 %, Fibrinogen:327 mg/dL, Lactic Acid:0.7 mmol/L,
   Albumin:3.2 g/dL, LDH:209 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:6.0
   mg/dL
   Assessment and Plan
   79 yo female with cirrhosis and renal failure presenting with variceal
   bleed and now complicated by persistent respiratory failure and renal
   failure.  She has had substantial improvement in ventilatory status and
   oxygenation across time.  There is no evidence of active GIB noted at
   this time given HCT stability over time.  She has maintained minimal
   urine output at 15-20cc hr which limits capacity for rapid fluid
   removal in the setting of ongoing need for dialysis.  This volume
   overload appears to be primarily manifest as significant bilateral
   effusions upon review of chest films.
   1)Resiratory Failure-
   -A/C this morning
   -Wean to PSV today
   -Hope to wean to [**5-22**] this morning following relief of sedating effects
   of medications.
   2)GI Bleed-
   -DDAVP given
   -EGD plan following extubation and stability if HCT remains with
   reasonable stability
   -Octreotide
   -Protonix continuing
   -Erythromycin to be completed
used only for EGD aid
   3) RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -Catheter placed
   -Dialysis today
   -Will need to continue to monitor urine flow as any hope/expectation of
   recovery will depend on this
   -Consider move to extubation following dialysis and stabilization of
   effusions and volume status as best we can.
   ICU Care
   Nutrition: npo for now
   Glycemic Control:
   Lines:
   18 Gauge - [**2125-3-21**] 02:35 AM
   Multi Lumen - [**2125-3-21**] 04:00 AM
   Arterial Line - [**2125-3-21**] 05:30 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2125-03-24 06:24:00 Physician Resident Progress Note
Chief Complaint: upper GIB bleed, ICU transfer for hemodynamic
   instability
   24 Hour Events:
   - HD @10pm. fluid balance -2.2L. No levophed needed to maintain BP.
   - GI Recs: Decrease PPI to 40mg IV BID, d/c octreotide. Will d/c Cipro
   [**3-24**]. No EGD until extubated.
   - Trial [**5-22**] Pressure Support , patient very dyspneic.
   ABG7.34/52/105/29.
   - Repeat trial on [**5-25**] PS, patient tolerated better than [**5-22**] but again
   became fatigued.
   - EGD and ECHO obtained early this AM.
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   severe rash;
   Last dose of Antibiotics:
   Erythromycin - [**2125-3-22**] 08:05 AM
   Ciprofloxacin - [**2125-3-24**] 02:00 AM
   Infusions:
   Midazolam (Versed) - 0.5 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-3-23**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-3-24**] 06:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36.1
C (96.9
   HR: 67 (59 - 89) bpm
   BP: 108/41(65) {94/33(56) - 121/56(77)} mmHg
   RR: 13 (9 - 21) insp/min
   SpO2: 96%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                    560 mL
                                                                    283 mL
   PO:
             TF:
   IVF:
                                                                    560 mL
                                                                    283 mL
   Blood products:
   Total out:
                                                                    275 mL
                                                                  2,535 mL
   Urine:
                                                                    275 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    285 mL
                                                                 -2,252 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 418 (384 - 422) mL
   PS : 10 cmH2O
   RR (Spontaneous): 12
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 44
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ///28/
   Ve: 6.9 L/min
   Physical Examination
   General: Awake, intubated. Asking for something to food/drink.
   HEENT: Sclera anicteric, MMM. Oropharynx dry.
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi.
   Decreased breath sounds RLB.
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding.
   Ext: Warm, well-perfused, 2+ pulses, no clubbing, cyanosis. Swollen
   hands. No LE edema.
   Skin: Confluent violaceous color changes on bilateral arms, L>R and
   right flank. Non-tender.
   Neuro: Awake. Pupils pinpoint. EOM intact. Nods appropriately to
   questions, follows commands. Moves all 4 extremities.
   Labs / Radiology
   36 K/uL
   10.6 g/dL
   202 mg/dL
   1.9 mg/dL
   28 mEq/L
   3.6 mEq/L
   45 mg/dL
   105 mEq/L
   141 mEq/L
   32.0 %
   4.5 K/uL
        [image002.jpg]
                             [**2125-3-21**]  08:00 PM
                             [**2125-3-22**]  12:11 AM
                             [**2125-3-22**]  04:05 AM
                             [**2125-3-22**]  04:17 AM
                             [**2125-3-22**]  11:04 AM
                             [**2125-3-22**]  06:35 PM
                             [**2125-3-23**]  03:26 AM
                             [**2125-3-23**]  04:03 AM
                             [**2125-3-23**]  05:51 PM
                             [**2125-3-24**]  03:55 AM
   WBC
   6.3
   4.5
   Hct
   31.0
   31.1
   30.0
   31.2
   34.6
   31.0
   32.0
   Plt
   46
   43
   42
   40
   36
   Cr
   2.6
   2.7
   2.2
   1.9
   TCO2
   23
   25
   Glucose
   83
   109
   154
   202
   Other labs: PT / PTT / INR:15.3/31.1/1.4  Fibrinogen:327 mg/dL,
   Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Microbiology: HD Catheter Tip Culture
 No growth.
   Assessment and Plan
   This is a 79 yo with cryptogenic cirrhosis, renal failure, admitted
   with respiratory failure and new variceal bleed.
   .
   # Resp failure: Good oxygenation on pressure support. Did not tolerated
   [**5-22**] trial this AM, likely in setting of ongoing volume overload per
   CXR. Will attempt to remove more fluid and then trial again on [**5-22**]
   pressure support, check RSBI.
   - Will trial RSBI and SBT, if does well, try extubation
   - Sedation fentanyl/versed.
   .
   # Variceal bleed: Hct stable. Bleed most likely due to portal
   hypertension, unclear precipitant, infectious w/u negative.
   Predisposing factor is thrombocytopenia, which per Heme may be due to
   Lovenox at OSH plus splenic sequestration. [**Month (only) 60**] also have component of
   uremic plt dysfunction. Received DDAVP on HD1. Per GI, d/c
d octreotide
   [**3-23**], cipro [**3-24**]. Also, Heme concern for HIT+ contributing to
   thrombocytopenia.
   - IV pantoprazole [**Hospital1 **].
   - Per Heme, start EPO 10,000 3x/week for goal Hgb >10. Dosing ok with
   renal.
   - Transfuse to keep HCT >30
   - Cont hemodynamic monitoring, incl CVP
   - Check Hct [**Hospital1 **].
   - F/U results of EGD and further GI Recs.
   - No heparin products. F/U HIT antibody, serotonin release assay per
   Heme.
   - Obtain in-house heme/onc consult regarding ?HIT. Consider argatroban,
   though reticent to start anticoagulation given recent UGIB.
   .
   # Renal failure: currently etiology unclear. Differential includes
   prerenal ARF-> ATN, but workup in place for glomerulonephritis and
   vasculitis. [**Doctor First Name 1205**]/ANCA negative. ASO positive. CRP elevated at 73.3.
   Renal U/S showed no hydronephrosis, nephrolithiasis, or renal mass,
   making obstruction very unlikely. Min urine (~20cc/hr). Careful volume
   resuscitation as CHF hx. U/A w/ [**3-22**] RBCs, >50 WBCs.
   - New tunneled HD line placed [**3-22**]. Last HD
   - ASO titer positive. [**Month (only) 60**] have component of post-streptococcal GN.
   - Last HD [**3-24**], with -2.2L.
   - Appreciate further Renal recs, especially regarding possibility for
   recovery of pt
s renal function.
   .
   # CHF: 2.5L removed during HD [**5-20**], -2.2L during HD [**6-20**]. Did not require
   levophed during 2^nd HD.  Appears to have ongoing pulmonary edema on
   CXR.
   - F/U ECHO today.
   - Continue HD today for goal -2L.
   - monitor CVP, mixed o2 sat
   .
   # Anemia: Hct stable. On epogen/Fe at transfer. Per heme, restart
   Epogen 10,000U TID.
   - Epo 10000U TID, ok per Renal.
   .
   # T2DM: Blood glucose elevated today. On Lantus 25U qPM at home.
   - ISS w/ QID FS while NPO. Will readdress when Pt has glucose source.
   .
   # Hypothyroidism: On 50mcg levothyroxine at home.
   - 25mcg IV levothyroxine daily.
   .
   # CAD: Known h/o CAD with 3 stents.
   - Lipitor 25mg qAM.
   - Holding ASA given recent GIB and antihypertensives given hypotension.
   .
   # FEN: No IVF, replete electrolytes. Currently NPO. If extubated today,
   will likely trial PO. Otherwise will drop NG Tube for feeds.
   .
   # Prophylaxis: ppi [**Hospital1 **], no sc hep, but pneumoboots, holding home
   antihypertensives until stable
   .
   # Access: Fem line, HD line. Plan to d/c fem line after HD and
   extubation. Add PICC today.
   .
   # Code: full, per HCP as reported by daughter,  family meeting to be
   planned re goals of care
   .
   # Communication: daughter [**Name (NI) **] and husband HCP
   .
   # Dispo: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-3-21**] 04:00 AM
   Arterial Line - [**2125-3-21**] 05:30 PM
   Dialysis Catheter - [**2125-3-22**] 07:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   [**First Name4 (NamePattern1) 321**] [**Last Name (NamePattern1) 8304**], MSIV
   MICU Intern addendum: Patient seen and discussed with MSIV and ICU team
   on rounds.  Plan for another round of dialysis later today to remove
   more fluid and then will attempt extubation.  EGD by GI this am with
   evidence of portal gastropathy.  Assistance from nephrology and
   hepatology teams is much appreciated.

2125-03-25 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: GIB
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2125-3-24**] 08:22 AM
 ENDOSCOPY - At [**2125-3-24**] 10:00 AM
   - TTE: Symmetric LVH w/ hyperdynamic LV systolic function (EF>75%) and
   elevated CI at 4.0  Elevated ventricular filling pressures. Mod pulm
   htn. Mod dilated RV w/ borderline normal function. Trivial AR and mild
   MR
   - EGD: 1 cord of Grade II varix . Gastric mucosa appears c/w portal
   hypertensive gastropathy. Rec'd starting Protonix 40mg PO x2wks and
   Carafate 1g PO 4x/day x 1week and beta-blocker.
   - Pt. known HIT Ab positive; Hematology to comment today
   - Had dialysis & removed 2.5 L in the afternoon
   - Extubated successfully
   - Small amount of melena, hct stable
   - Epogen dosing clarified with pharmacy, okay to give 10,000 units TIW
   - ~0600 tachypneic, hypoxic, HTN; Got morphine 1 mg IV x 2, lasix 80 mg
   IV, nebs x 1, nitro gtt, ABG on NRB 7.19/70/64/28, lactate 2.3, K 3.8;
   CXR unchanged from yesterday despite HD; put on CPAP & ABG
   7.26/58/328/27
   - plt transfusion x 2 this am for PICC line placement; plan to remove
   femoral line afterward
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   severe rash;
   Last dose of Antibiotics:
   Erythromycin - [**2125-3-22**] 08:05 AM
   Ciprofloxacin - [**2125-3-24**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-3-24**] 08:00 AM
   Carafate (Sucralfate) - [**2125-3-25**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-3-25**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.1
C (97
   HR: 88 (58 - 101) bpm
   BP: 107/39(66) {94/33(57) - 123/53(82)} mmHg
   RR: 20 (9 - 23) insp/min
   SpO2: 96%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                    557 mL
                                                                    192 mL
   PO:
                                                                     60 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    497 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  5,102 mL
                                                                     17 mL
   Urine:
                                                                    102 mL
                                                                     17 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -4,545 mL
                                                                    175 mL
   Respiratory support
   O2 Delivery Device: Non-rebreather
   Ventilator mode: PSV/SBT
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 474 (427 - 474) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 9
   PEEP: 0 cmH2O
   FiO2: 100%
   PIP: 14 cmH2O
   SpO2: 96%
   ABG: 7.26/58/328/28/-1
   Ve: 5.1 L/min
   PaO2 / FiO2: 328
   Physical Examination
   General: Awake, pleasant, NAD
   HEENT: Sclera anicteric, MMM. Oropharynx dry.
   Lungs: Decreased BS, scattered rhonchi and crackles b/l
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding.
   Ext: Warm, well-perfused, 2+ pulses, no clubbing, cyanosis. Right arm >
   left arm. No LE edema.
   Skin: Confluent violaceous color changes on bilateral arms, L>R and
   right flank. Non-tender.
   Neuro: Alert, oriented only to self.  Pleasantly confused.  Follows
   commands. Moves all 4 extremities.
   Labs / Radiology
   27 K/uL
   10.6 g/dL
   160 mg/dL
   2.6 mg/dL
   28 mEq/L
   3.8 mEq/L
   58 mg/dL
   104 mEq/L
   146 mEq/L
   32.4 %
   4.5 K/uL
        [image002.jpg]
                             [**2125-3-23**]  03:26 AM
                             [**2125-3-23**]  04:03 AM
                             [**2125-3-23**]  05:51 PM
                             [**2125-3-24**]  03:55 AM
                             [**2125-3-24**]  02:37 PM
                             [**2125-3-24**]  03:11 PM
                             [**2125-3-25**]  12:40 AM
                             [**2125-3-25**]  03:32 AM
                             [**2125-3-25**]  06:27 AM
                             [**2125-3-25**]  06:55 AM
   WBC
   4.5
   4.5
   Hct
   31.0
   32.0
   33.3
   33.6
   32.4
   Plt
   36
   28
   27
   Cr
   2.2
   1.9
   2.6
   TCO2
   25
   31
   28
   27
   Glucose
   154
   202
   160
   Other labs: PT / PTT / INR:15.6/31.1/1.4, Ca++:8.7 mg/dL, Mg++:1.8
   mg/dL, PO4:4.0 mg/dL
   ASO titer +; cryoglobulins, ANCA, & [**Doctor First Name 1205**] negative; CRP 73.3
   Assessment and Plan
   This is a 79 yo F with cryptogenic cirrhosis, renal failure, admitted
   with respiratory failure and new variceal bleed.
   .
   # Resp failure: Event this morning likely flash pulmonary edema in the
   setting of hypertension and continued volume overload.  Patient
   improved on CPAP and now is back on face mask and doing well.
   - discuss with nephrology doing additional HD today
   - CPAP if additional episodes of respiratory distress, will try to
   avoid reintubation if possible
   - consider restarting patient
s home anti-hypertensives given HTN last
   night and now patient appears more stable hemodynamically as bleeding
   is currently resolved.
   .
   # Variceal bleed: Patient with continued multiple episodes of small
   volume melena overnight.  Hct stable.  Initial bleed most likely due to
   portal hypertension.  Predisposing factor is thrombocytopenia and may
   also have a component of uremic plt dysfunction. Received DDAVP on HD1.
   Per GI, d/c
d octreotide [**3-23**], cipro [**3-24**].
   - Pantoprazole 40 mg PO daily x 2 weeks.
   - Carafate 1g QID x 1 week
   - Transfuse to keep HCT >30
   - Check Hct [**Hospital1 **], more often if increased melena or frank bleeding.
   .
   # Renal failure: currently etiology unclear. Differential includes
   prerenal ARF-> ATN, but workup in place for glomerulonephritis and
   vasculitis. [**Doctor First Name 1205**]/ANCA negative. ASO positive. CRP elevated at 73.3.
   Renal U/S showed no hydronephrosis, nephrolithiasis, or renal mass,
   making obstruction very unlikely. Min urine (~20cc/hr). Careful volume
   resuscitation as CHF hx. U/A w/ [**3-22**] RBCs, >50 WBCs.
   - New tunneled HD line placed [**3-22**].
   - ASO titer positive. [**Month (only) 60**] have component of post-streptococcal GN.
   - Last HD [**3-24**] x 2, with -2.2L and -2.5L
   - Appreciate further Renal recs, especially regarding possibility for
   recovery of pt
s renal function.
   .
   # CHF: 2.5L removed during HD [**3-23**], 4.7L during HD [**3-24**]. Did not require
   levophed during 2^nd HD.  Appears to have ongoing pulmonary edema on
   CXR.
   - Continue HD today
   - monitor O2 sats, symptoms
   .
   # Thrombocytopenia: Likely due to portal hypertension with splenic
   sequestration.  Per report, heme at OSH concerned patient may have a
   component of HIT due to Lovenox as pt. is known HIT Ab+.  Platelets
   appear stable here.  Of note, she has been receiving heparin flushes
   through her HD catheter.
   - Avoid heparin products. F/U HIT antibody, serotonin release assay per
   Heme.
   - Appreciate input from hematology regarding hx of HIT Ab+ and
   treatment for this patient.  Of note patient does have afib, but would
   like to avoid anticoagulation in the setting of GIB.  Consider whether
   argatroban should be initiated for afib or avoided due to GIB.
   .
   # Anemia: Likely both chronic and acute components.  Hct currently
   stable. On epogen/Fe at transfer.
   - Epo 10000U TIW per heme, ok per Renal.
   - Transfuse to keep HCT >30
   - Check Hct [**Hospital1 **], more often if increased melena or frank bleeding.
   .
   # T2DM: Blood glucose elevated today. On Lantus 25U qPM at home.
   - ISS w/ QID FS while NPO. Will readdress when Pt has glucose source.
   .
   # Hypothyroidism: On 50mcg levothyroxine at home.
   - 25mcg IV levothyroxine daily as NPO, will transition to home regimen
   when taking POs.
   .
   # CAD: Known h/o CAD with 3 stents.
   - Lipitor 25mg qAM.
   - Holding ASA given recent GIB and antihypertensives given hypotension.
   .
   # Confusion: Per family, patient sometime becomes confused at night.
   The patient was awake much of last night which may have contributed to
   confusion as well as morphine received for respiratory distress this
   am.
   - limit narcotics
   - soft restraints prn to maintain lines
   - consider zyprexa prn (not needed last night)
   .
   # FEN: No IVF, replete electrolytes. Currently sips only as patient may
   need reintubation later today if not dialyzed.
   .
   # Prophylaxis: PPI; no sc hep, but pneumoboots
   .
   # Access: Fem line and HD line. Plan to d/c fem line after PICC line
   placement today.  PICC team unable to come by yesterday for placement.
   .
   # Code: full, per HCP as reported by daughter,  family meeting to be
   planned re goals of care
   .
   # Communication: daughter [**Name (NI) **] and husband HCP
   .
   # Dispo: ICU for now; potential call out to floor tomorrow if
   respiratory status remains stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-3-21**] 04:00 AM
   Arterial Line - [**2125-3-21**] 05:30 PM
   Dialysis Catheter - [**2125-3-22**] 07:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2125-03-26 07:03:00 Physician Resident Progress Note
Chief Complaint: Upper GI Bleed, ICU transfer for hemodynamic
   instability
   24 Hour Events:
 PICC LINE - START [**2125-3-25**] 02:13 PM
 MULTI LUMEN - STOP [**2125-3-25**] 04:53 PM
   - PICC was placed after 2 units of Plts (27->38, then back down to 28)
   - Femoral line was d/c'd and tip sent to lab for culture
   - Liver recs: Start Cipro for SBP prophylaxis (Day 1=[**2125-3-25**], needs to
   complete 7 day course). Continue Carafate for 7 days (Day 1 = [**2125-3-24**]).
   Continue PPI for longer than 2 weeks.
   - Renal recs: Ultrafiltration completed and met goal OP -3 L, since Pt
   received blood products (plt) in AM.
   - Foley was changed (yeast)
   - Right upper ext U/S done, neg for DVT
   - Nadolol 20 mg PO daily started
   Allergies:
   Keflex (Oral) (Cephalexin Monohydrate)
   severe rash;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2125-3-24**] 02:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2125-3-26**] 12:00 AM
   Carafate (Sucralfate) - [**2125-3-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-3-26**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.9
C (96.7
   HR: 79 (73 - 100) bpm
   BP: 100/47(66) {98/47(66) - 148/71(101)} mmHg
   RR: 13 (13 - 26) insp/min
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 65 Inch
             Total In:
                                                                  1,256 mL
                                                                    104 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                    461 mL
                                                                    104 mL
   Blood products:
                                                                    675 mL
   Total out:
                                                                    267 mL
                                                                  3,055 mL
   Urine:
                                                                    267 mL
                                                                     55 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    989 mL
                                                                 -2,951 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: 7.33/53/86.[**Numeric Identifier 96**]/31/0
   PaO2 / FiO2: 242
   Physical Examination
   General: Awake, pleasant, NAD
   HEENT: Sclera anicteric, MMM. Oropharynx dry.
   Lungs: Decreased BS, scattered crackles b/l
   CV: Irregular rate/rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding.
   Ext: Warm, well-perfused, 2+ pulses, no clubbing, cyanosis. Right arm >
   left arm. No LE edema.
   Skin: Confluent violaceous color changes on bilateral arms, L>R and
   right flank. Non-tender.
   Neuro: Alert, oriented only to self.  Pleasantly confused.  Follows
   commands. Moves all 4 extremities.
   Labs / Radiology
   30 K/uL
   9.8 g/dL
   88 mg/dL
   2.9 mg/dL
   31 mEq/L
   3.8 mEq/L
   68 mg/dL
   107 mEq/L
   144 mEq/L
   29.8 %
   4.5 K/uL
        [image002.jpg]
                             [**2125-3-24**]  03:11 PM
                             [**2125-3-25**]  12:40 AM
                             [**2125-3-25**]  03:32 AM
                             [**2125-3-25**]  06:27 AM
                             [**2125-3-25**]  06:55 AM
                             [**2125-3-25**]  08:14 AM
                             [**2125-3-25**]  11:58 AM
                             [**2125-3-25**]  04:17 PM
                             [**2125-3-25**]  08:52 PM
                             [**2125-3-26**]  03:14 AM
   WBC
   4.5
   4.8
   4.5
   Hct
   33.6
   32.4
   36
   30.1
   29.8
   Plt
   27
   38
   28
   30
   Cr
   2.6
   2.9
   TCO2
   31
   28
   27
   27
   29
   Glucose
   160
   88
   Other labs: PT / PTT / INR:15.4/31.0/1.4,  Ca++:8.7 mg/dL, Mg++:2.4
   mg/dL, PO4:3.8 mg/dL
   Imaging:
   CXR
 Interval improvement in vascular congestion and right sided
   effusion.
   Assessment and Plan
   This is a 79 yo F with cryptogenic cirrhosis, renal failure, admitted
   with respiratory failure and new variceal bleed.
   .
   # Resp Distress: Extubated successfully [**3-24**]. Episode of hypoxia
   requiring CPAP likely due to flash pulmonary edema in the setting of
   hypertension and continued volume overload.  Patient improved on CPAP
   and now is back on face mask and doing well.
   - 3L removed during Ultrafiltration [**3-25**] w/ continued improvement in
   resp status and blood pressure.
   - CPAP if additional episodes of respiratory distress, will try to
   avoid reintubation.
   .
   # Variceal bleed: Patient with continued multiple episodes of small
   volume melena overnight on [**3-25**].  Hct stable.  Initial bleed most likely
   due to portal hypertension.  Predisposing factor is thrombocytopenia
   and may also have a component of uremic plt dysfunction vs. HIT.
   Received DDAVP on HD1. Per GI, d/c
d octreotide [**3-23**].
   - Pantoprazole 40 mg PO daily (discharge home on PPI)
   - Carafate 1g QID x 7days (Day 1= [**2125-3-24**])
   - Nadolol 20mg daily
   - Transfuse to keep HCT >25 unless obvious signs of bleeding.
   - Daily Hct, more often if increased melena or frank bleeding.
   .
   # Renal failure: currently etiology unclear. [**Name2 (NI) 317**] baseline CRI from
   diabetic nephrosclerosis  w/ baseline Cr 1.5. Differential includes
   prerenal ARF-> ATN, but workup in place for glomerulonephritis and
   vasculitis. [**Doctor First Name 1205**]/ANCA negative. ASO positive. CRP elevated at 73.3.
   Renal U/S showed no hydronephrosis, nephrolithiasis, or renal mass,
   making obstruction very unlikely. Min urine (~20cc/hr). Careful volume
   resuscitation as CHF hx. U/A w/ [**3-22**] RBCs, >50 WBCs.
   - New tunneled HD line placed [**3-22**].
   - ASO titer positive. [**Month (only) 60**] have component of post-streptococcal GN.
   - Last HD (ultrafiltration) [**3-25**] w/ -3L.
   - HD today for I/O goal -1L.
   - Appreciate further Renal recs, especially regarding possibility for
   recovery of pt
s renal function.
   .
   # CHF: 2.5L removed during HD [**3-23**], 4.7L during HD [**3-24**], 3L during HD
   [**3-25**]. Had not required levophed during HD since [**3-24**].  Pulm edema
   improved on CXR.
   - Continue HD today per renal for I/O goal -1L.
   - monitor O2 sats, symptoms
   .
   # Thrombocytopenia: Likely due to portal hypertension with splenic
   sequestration.  ?HIT positive per OSH notes and received Lovenox.  Of
   note, she has been receiving heparin flushes through her HD catheter.
   Received 2U platelets [**3-24**] w/ appropriate bump, but plts again decreased
   to 30 today.
   - Avoid heparin products. F/U HIT antibody, serotonin release assay per
   Heme.
   - Appreciate input from hematology regarding hx of HIT Ab+ and
   treatment for this patient.  Of note patient does have afib, but would
   like to avoid anticoagulation in the setting of GIB.  Consider whether
   argatroban should be initiated for afib or avoided due to GIB.
   .
   # Anemia: Likely both chronic and acute components.  Hct currently
   stable. On epogen/Fe at transfer.
   - Epo 10000U TIW per heme, ok per Renal.
   - Transfuse to keep HCT >25
   - Check Hct daily, more often if increased melena or frank bleeding.
   .
   # T2DM: On Lantus 25U qPM at home.
   - ISS w/ QID FS while NPO. Will readdress when Pt has glucose source.
   .
   # Hypothyroidism: On 50mcg levothyroxine at home.
   - Continue 50mcg levothyroxine.
   .
   # CAD: Known h/o CAD with 3 stents.
   - Lipitor 25mg qAM.
   - Holding ASA given recent GIB. On Nadolol 20mg for varices. Hold home
   antihypertensives.
   .
   # Confusion: Pt has baseline mild dementia. Per family, patient
   sometime becomes confused at night.  Oriented to self and
hospital
   this AM.
   - limit narcotics
   - soft restraints prn to maintain lines
   - consider zyprexa prn (not needed last night)
   .
   # FEN: KVO w/ IVF @ 15cc/hr. Replete electrolytes. PO clears today.
   ADAT pending liver recs.
   .
   # Prophylaxis: PPI. No sc hep. +Pneumoboots
   .
   # Access: HD line. PICC Line. A Line. D/C A- line today.
   .
   # Code: full, per HCP as reported by daughter,  family meeting to be
   planned re goals of care
   .
   # Communication: daughter [**Name (NI) **] and husband HCP
   .
   # Dispo: Call out today. OOB/PT today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2125-3-21**] 05:30 PM
   Dialysis Catheter - [**2125-3-22**] 07:07 PM
   PICC Line - [**2125-3-25**] 02:13 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   [**First Name4 (NamePattern1) 321**] [**Last Name (NamePattern1) 8304**], MSIV
   I agree with note written by [**First Name4 (NamePattern1) 321**] [**Last Name (NamePattern1) 8304**], MS4.  In summary, MS.
   [**Known lastname 8357**] is a female with cryptogenic cirrhosis here with variceal
   bleed, now hemodynamically stable with stable Hcts and no evidence on
   ongoing hemorrhage.  Currently on Pantoprazole, nadolol, and carafate
   and checking daily Hcts.  Patient with renal failure, now on HD,
   getting fluid removal with goal of negative 1 L today.  Will callout to
   the [**Doctor Last Name 2504**]-[**Doctor Last Name **] service today.